US04119710
1-(4'-Amino-3'-bromo-5'-cyano-phenyl)-2-cyclobutylamino-ethanol,
m.p. of the hydrochloride: 215°-216° C. (decomp.), was prepared from 4'-amino-3'-bromo-5'-cyano-2-cyclobutylaminoacetophenone analogous to Example 48.

reactant | hydrochloride | Cl | ClH
reactant | 4'-amino-3'-bromo-5'-cyano-2-cyclobutylaminoacetophenone | NC1=C(C=C(C=C1C#N)C(CNC1CCC1)=O)Br | C13H14BrN3O
product | 1-(4'-Amino-3'-bromo-5'-cyano-phenyl)-2-cyclobutylamino-ethanol | NC1=C(C=C(C=C1C#N)C(CNC1CCC1)O)Br | C13H16BrN3O
